US04623652
(b) N-Benzylidene-2-[N'-[(dimethylamino)sulfonyl]amino]ethylamine Hydrochloride
A mixture of 4.0 g (0.02 mole) of 2-[N-[(dimethylamino)sulfonyl]amino]ethylamine hydrochloride and 2.0 g (0.02 mole) of benzaldehyde was stirred and treated immediately with 2.0 g (0.02 mole) of triethylamine, followed by the addition of 200 ml of dry benzene. The solution was heated to reflux employing a Dean-Stark apparatus. After 2 hr at reflux, the benzene solution was cooled and washed twice with 100 ml portions of water. The organic phase was separated, dried over magnesium sulfate, and concentrated under reduced pressure to an oil, which was dissolved in ether and treated with HCl gas to precipitate a yellowish solid. The product was collected by filtration, washed with ether and air dried to provide 2.4 g (50%) of product. The NMR spectrum was consistent with the assigned structure and the solid was used without additional purification.

reactant | 2-[N-[(dimethylamino)sulfonyl]amino]ethylamine hydrochloride | 0.02 mole, 4.0 g | Cl.CN(S(=O)(=O)NCCN)C
reactant | benzaldehyde | 0.02 mole, 2.0 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | triethylamine | 0.02 mole, 2.0 g | C(C)N(CC)CC | C6H15N
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | N-Benzylidene-2-[N'-[(dimethylamino)sulfonyl]amino]ethylamine Hydrochloride | 2.4 g, 50% | Cl.C(C1=CC=CC=C1)=NCCNS(=O)(=O)N(C)C | InChI=1S/C11H17N3O2S.ClH/c1-14(2)17(15,16)13-9-8-12-10-11-6-4-3-5-7-11;/h3-7,10,13H,8-9H2,1-2H3;1H
